US04734430
A solution of 0.59 ml of methylhydrazine in 20 ml of methanol was added dropwise to an ice-cold solution of 2.2 g of 4,5,6,7-tetrahydro-1,6,6-trimethyl-4-oxo-1H-indazole-5-carboxaldehyde in 80 ml of methanol. The solution was heated at reflux for 45 minutes and the solvent was removed under reduced pressure. The residue was dissolved in hot toluene and cooled to provide off-white crystals which were recrystallized from toluene to give 2,4,5,6-tetrahydro-2,4,4,6-tetramethylbenzo[1,2-c:3,4-c']dipyrazole melting at about 172°-173° C. The initial toluene mother liquor was concentrated under reduced pressure to provide tan crystals which were recrystallized from toluene to give 1,4,5,6-tetrahydro-1,4,4,6-tetramethylbenzo[1,2-c:3,4-c']dipyrazole melting at about 105°-108° C.

reactant | methylhydrazine | 0.59 ml | CNN | CH6N2
reactant | 4,5,6,7-tetrahydro-1,6,6-trimethyl-4-oxo-1H-indazole-5-carboxaldehyde | 2.2 g | CN1N=CC=2C(C(C(CC12)(C)C)C=O)=O | C11H14N2O2
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 80 ml | CO | CH4O
product | 2,4,5,6-tetrahydro-2,4,4,6-tetramethylbenzo[1,2-c:3,4-c']dipyrazole | CN1N=C2C(=C1)C(CC=1N(N=CC12)C)(C)C | C12H16N4
